US07662836B2
a) 1-(2-phenylethyl)-4-piperidine-carboxylic acid hydrochloride
A suspension of 1-(2-phenylethyl)-4-carbetoxypiperidine (12.2 g, 0.047 mol) obtained as described in J. Med. Chem. 1996 (39), 749-756, in 1N NaOH (100 ml) was heated under reflux for 4 h. After cooling to room temperature, the solution was made acid with 6N HCl to pH 2, concentrated by evaporation at reduced pressure, and the solid thus obtained was filtered and dried in a stove under vacuum to give the desired product (12.1 g).

reactant | 1-(2-phenylethyl)-4-carbetoxypiperidine | 0.047 mol, 12.2 g | C1(=CC=CC=C1)CCN1CCC(CC1)C(=O)OCC | C16H23NO2
reactant | HCl | 6N | Cl | ClH
solvent | NaOH | 1N, 100 ml | [OH-].[Na+]
product | 1-(2-phenylethyl)-4-piperidine-carboxylic acid hydrochloride | 12.1 g | Cl.C1(=CC=CC=C1)CCN1CCC(CC1)C(=O)O | InChI=1S/C14H19NO2.ClH/c16-14(17)13-7-10-15(11-8-13)9-6-12-4-2-1-3-5-12;/h1-5,13H,6-11H2,(H,16,17);1H
